US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(6-methoxy-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Example 141, from 38 mg (0.084 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one, 90 mg (1.67 mmol) of sodium methoxide and 1 mL dry methanol. Yield: 19 mg of a white powder. LC-MSD, m/z for C22H16BrN3O3 [M+H]+=450.0, 452.0; HPLC retention time: 2.3 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one | 0.084 mmol, 38 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C=NC(=CC1)Cl | C21H13BrClN3O2
reactant | sodium methoxide | 1.67 mmol, 90 mg | C[O-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(6-methoxy-pyridine-3-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C=NC(=CC1)OC | C22H16BrN3O3
